US09079930B2
Step F: Diethyl 4-((4-hydroxy-2-(pyridin-2-yl)pyrimidine-5-carboxamido)(4-methoxyphenyl)methyl)phenylphosphonate (1-1-1)
To a solution of 4-hydroxy-2-(pyridin-2-yl)pyrimidine-5-carboxylic acid, 1-1-h, (580 mg, 2.6 mmol) in NMP (2 ml) was added Et3N (540 mg, 5.2 mmol). The mixture was aged for 15 min at room temperature. To the mixture was added CDI (480 mg, 2.86 mmol) and the resulting mixture was heated to 70° C. for 1 h. To the hot homogeneous solution was then added in one portion diethyl 4-(amino(4-methoxyphenyl)methyl)phenylphosphonate, 1-1-d, (940 mg, 2.6 mmol). Heating was continued for 30 min at 70° C. The reaction mixture was then cooled to room temperature and diluted with water (12 ml) and ethyl acetate (5 ml). The resulting aqueous layer was slowly neutralized to pH=7. The neutralized aqueous layer was then extracted with ethyl acetate. The organic layer was concentrated under vacuum and the residue was purified on silica gel column with the eluent of dichloromethane/methanol=50/1 and subsequently prep-HPLC to provide the product as a white solid, 1-1-1, (260 mg, 18%). 1H NMR (CD3OD, 300 MHz,): δ 8.60 (m, 2H), 8.40 (m, 1H), 7.90 (m, 1H), 7.60 (m, 2H), 7.50 (m, 1H), 7.40 (m, 2H), 7.20 (m, 2H), 6.84 (m, 2H), 6.24 (s, 1H), 3.99 (m, 4H), 3.68 (s, 3H), 1.08 (t, 6H, J=6 Hz).

reactant | 4-hydroxy-2-(pyridin-2-yl)pyrimidine-5-carboxylic acid | OC1=NC(=NC=C1C(=O)O)C1=NC=CC=C1 | C10H7N3O3
reactant | Et3N | 5.2 mmol, 540 mg | CCN(CC)CC | C6H15N
reactant | CDI | 2.86 mmol, 480 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | diethyl 4-(amino(4-methoxyphenyl)methyl)phenylphosphonate | NC(C1=CC=C(C=C1)P(OCC)(OCC)=O)C1=CC=C(C=C1)OC | C18H24NO4P
solvent | NMP | 2 ml | CN1CCCC1=O | C5H9NO
solvent | water | 12 ml | O | H2O
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | Diethyl 4-((4-hydroxy-2-(pyridin-2-yl)pyrimidine-5-carboxamido)(4-methoxyphenyl)methyl)phenylphosphonate | OC1=NC(=NC=C1C(=O)NC(C1=CC=C(C=C1)P(OCC)(OCC)=O)C1=CC=C(C=C1)OC)C1=NC=CC=C1 | C28H29N4O6P
